US09447090B2
To a suspension of 510 mg of 8-(cyclohexylmethoxy)-2-methylimidazo[1,2-a]pyridine-3-carboxylic acid in dichloromethane were added 0.30 ml of oxalyl dichloride and one drop of DMF under ice-cooling, followed by stirring at room temperature for 30 minutes, and the solvent was evaporated under reduced pressure to obtain 603 mg of 8-(cyclohexylmethoxy)-2-methylimidazo[1,2-a]pyridine-3-carboxylic acid chloride hydrochloride.

reactant | 8-(cyclohexylmethoxy)-2-methylimidazo[1,2-a]pyridine-3-carboxylic acid | 510 mg | C1(CCCCC1)COC=1C=2N(C=CC1)C(=C(N2)C)C(=O)O | C16H20N2O3
reactant | oxalyl dichloride | 0.30 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | dichloromethane | ClCCl | CH2Cl2
catalyst | DMF | one drop | CN(C)C=O | C3H7NO
product | 8-(cyclohexylmethoxy)-2-methylimidazo[1,2-a]pyridine-3-carboxylic acid chloride hydrochloride | 603 mg | Cl.C1(CCCCC1)COC=1C=2N(C=CC1)C(=C(N2)C)C(=O)Cl | InChI=1S/C16H19ClN2O2.ClH/c1-11-14(15(17)20)19-9-5-8-13(16(19)18-11)21-10-12-6-3-2-4-7-12;/h5,8-9,12H,2-4,6-7,10H2,1H3;1H
